US05618975
8b) 2-iodobenzene-n-propylsulfonylurea
To a stirred solution of 2-iodo benzene sulfonamide (4 g) in acetone (40 mi) solid K2CO3 (3.92 g) is added in one portion and the mixture is refluxed under N2 -atmosphere, n-propyl isocyanate is added dropwise to the heated mixture. After 2 hours reflux, the reaction is cooled to room temperature and concentrated to dryness. Water (200 ml) is added and the cooled mixture is acidified with 2N HCl to pH 4 and filtered. The precipitate obtained is recristallised with acetone/isopropyl ether mixture to give 4.1 g solid of the title compound.

reactant | 2-iodo benzene sulfonamide | 4 g | IC1=C(C=CC=C1)S(=O)(=O)N | C6H6INO2S
reactant | K2CO3 | 3.92 g | C(=O)([O-])[O-].[K+].[K+]
reactant | n-propyl isocyanate | C(CC)N=C=O | C4H7NO
reactant | acetone isopropyl ether | CC(=O)C.C(C)(C)OC(C)C
solvent | acetone | CC(=O)C | C3H6O
product | 2-iodobenzene n-propylsulfonylurea | IC1=CC=CC=C1.C(CC)S(=O)(=O)NC(=O)N | InChI=1S/C6H5I.C4H10N2O3S/c7-6-4-2-1-3-5-6;1-2-3-10(8,9)6-4(5)7/h1-5H;2-3H2,1H3,(H3,5,6,7)
